US08859535B2
(S)-1-(4-Chloro-phenyl)-2-[4-(3-hydroxy-azetidin-3-yl)-phenyl]-7-isopropoxy-6-methoxy-1,4-dihydro-2H-isoquinolin-3-one
Example 56 was obtained from example 55. A solution of 3-{4-[(S)-1-(4-Chloro-phenyl)-7-isopropoxy-6-methoxy-3-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-phenyl}-3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester (70 mg, 0.118 mmol) in DCM (1 ml) was immersed in an ice-bath followed by addition of TFA (0.045 ml, 0.590 mmol). The yellow reaction solution turned brown and was stirred for 30 minutes. The reaction mixture was treated with ice/saturated aq. sodium hydrogencarbonate solution and extracted with DCM. The organic phase was separated, dried over sodium sulfate, filtered and concentrated in vacuo to obtain the title compound as yellowish solid.

reactant | 3-{4-[(S)-1-(4-Chloro-phenyl)-7-isopropoxy-6-methoxy-3-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-phenyl}-3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester | 0.118 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CC(C1)(O)C1=CC=C(C=C1)N1[C@H](C2=CC(=C(C=C2CC1=O)OC)OC(C)C)C1=CC=C(C=C1)Cl | C33H37ClN2O6
reactant | TFA | 0.590 mmol, 0.045 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-(4-Chloro-phenyl)-2-[4-(3-hydroxy-azetidin-3-yl)-phenyl]-7-isopropoxy-6-methoxy-1,4-dihydro-2H-isoquinolin-3-one | ClC1=CC=C(C=C1)[C@@H]1N(C(CC2=CC(=C(C=C12)OC(C)C)OC)=O)C1=CC=C(C=C1)C1(CNC1)O | C28H29ClN2O4
